US04920131
A mixture of 3,3'-dihydroxydeoxybenzoin (0.05 mol), ethyl bromoacetate (0.05 mol) ad K2CO3 (0.05 mol) in 50 mL of DMF is stirred at room temperature overnight. The reaction mixture is poured into water and extracted with EtOAc. The organic solution is dried and evaporated to dryness. The crude products are separtated by flash chromatography to give the ethyl 2-(3-(2-(3-hydroxyphenyl)-2-oxoethyl)phenoxy)acetate and the ethyl 2-(3-(2-(3-hydroxyphenyl)-1-oxoethyl)phenoxy)acetate.

reactant | 3,3'-dihydroxydeoxybenzoin | 0.05 mol | OC=1C=C(C=CC1)C(=O)CC1=CC(=CC=C1)O | C14H12O3
reactant | ethyl bromoacetate | 0.05 mol | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 0.05 mol | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3-(2-(3-hydroxyphenyl)-2-oxoethyl)phenoxy)acetate | OC=1C=C(C=CC1)C(CC=1C=C(OCC(=O)OCC)C=CC1)=O | C18H18O5
